US07279486B2
Step 1. {[3-(Bromomethyl)benzyl]oxy}(tert-butyl)dimethylsilane
To a mixture of [3-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenyl]methanol (J. Med. Chem. 1996, 25, 4871., 4.39 g, 17 mmol) and carbon tetrabromide (8.95 g, 27 mmol) in tetrahydrofuran (60 mL) was added triphenylphosphine (6.82 g, 26 mmol) in two portions at 0° C. and the mixture was stirred for 3 h at room temperature. The mixture was neutralized with aqueous sodium hydrogen carbonate and extracted with dichloromethane. The organic layer was concentrated. The residue was taken up in hexane and the resulting mixture was filtered, and concentrated. The residue was purified by column chromatography on silica gel eluting with hexane/dichloromethane (10/1) to afford 760 mg (14%) of the title compound as a colorless oil:

reactant | [3-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenyl]methanol | 17 mmol, 4.39 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1)CO | C14H24O2Si
reactant | carbon tetrabromide | 27 mmol, 8.95 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 26 mmol, 6.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | {[3-(Bromomethyl)benzyl]oxy}(tert-butyl)dimethylsilane | 760 mg, 14% | BrCC=1C=C(CO[Si](C)(C)C(C)(C)C)C=CC1 | C14H23BrOSi
